US06797718B2
Under a nitrogen atmosphere, a solution of 6-methyl-2-phenoxy-N4-{2-[3-(pyridin-3-yl)propoxy]ethyl}pyridine-3,4-diamine (5.2 g, 14 mmol), anhydrous dichloromethane (40 mL), and anhydrous triethylamine (2.3 mL, 16.5 mmol) was cooled to 5° C. A solution of ethoxyacetyl chloride (1.77 g, 14.4 mmol) in dichloromethane (10 mL) was then added over a period of ten minutes, and the reaction was stirred for 30 minutes. The reaction mixture was diluted with dichloromethane (25 mL), washed with aqueous saturated sodium bicarbonate (3×) and brine (3×), dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 5.8 g of 2-ethoxy-N-(6-methyl-2-phenoxy-4-{2-[3-(pyridin-3-yl)propoxy]ethylamino}pyridin-3-yl)acetamide as an oil.

reactant | 6-methyl-2-phenoxy-N4-{2-[3-(pyridin-3-yl)propoxy]ethyl}pyridine-3,4-diamine | 14 mmol, 5.2 g | CC1=CC(=C(C(=N1)OC1=CC=CC=C1)N)NCCOCCCC=1C=NC=CC1 | C22H26N4O2
reactant | triethylamine | 16.5 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 14.4 mmol, 1.77 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-ethoxy-N-(6-methyl-2-phenoxy-4-{2-[3-(pyridin-3-yl)propoxy]ethylamino}pyridin-3-yl)acetamide | 5.8 g | C(C)OCC(=O)NC=1C(=NC(=CC1NCCOCCCC=1C=NC=CC1)C)OC1=CC=CC=C1 | C26H32N4O4
